US07893058B2
Step 2: (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-[4-(1-methyl-piperidin-4-ylmethoxy)-phenyl]-amine
To a solution of 5,8-dibromo-imidazo[1,2-a]pyrazine (0.100 g, 0.36 mmol) in isopropanol (5 mL) are added 1,4-diazabicyclo[2,2,2]octane (DABCO) (0.036 mL, 0.36 mmol) and 4-(1-methyl-piperidin-4-ylmethoxy)-phenylamine (79.6 mg, 0.36 mmol). The reaction mixture is stirred at 90° C. overnight. The solvent is evaporated and the residue chromatographed on silica gel column eluting with 97:3 followed by 94:6 and 90:10 DCM:MeOH. The title compound is obtained as a solid (20 mg, 13%). LCMS: Rt 2.30min (94%), m/z (APCI) 417.

reactant | 5,8-dibromo-imidazo[1,2-a]pyrazine | 0.36 mmol, 0.100 g | BrC1=CN=C(C=2N1C=CN2)Br | C6H3Br2N3
reactant | 1,4-diazabicyclo[2,2,2]octane | 0.36 mmol, 0.036 mL | N12CCN(CC1)CC2 | C6H12N2
reactant | 4-(1-methyl-piperidin-4-ylmethoxy)-phenylamine | 0.36 mmol, 79.6 mg | CN1CCC(CC1)COC1=CC=C(C=C1)N | C13H20N2O
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-[4-(1-methyl-piperidin-4-ylmethoxy)-phenyl]-amine | BrC1=CN=C(C=2N1C=CN2)NC2=CC=C(C=C2)OCC2CCN(CC2)C | C19H22BrN5O
